US04075409
8 g of 2-(methyl-chloroacetamido)-5-chlorobenzophenone and 6.8 g of DL-amphetamine (= DL 1-phenyl-2-aminopropane) in 150 ml of anhydrous dioxan are heated to reflux for 4 hours whilst stirring. The turbid solution is filtered after cooling and evaporated in vacuo and the oily residue is triturated with three times 100 ml of water and dried in vacuo. The oily crude base (8.3 g) thus obtained is dissolved in 400 ml of anhydrous diethyl ether and filtered. 6.5 g of DL-2-(5-phenyl-N-methyl-4-methyl-3-aza-pentanamido)-5-chlorobenzophenone hydrochloride (58% of theory), with a melting point of 132°-135°, are obtained by passing in dry hydrogen chloride gas.

reactant | 2-(methyl-chloroacetamido)-5-chlorobenzophenone | 8 g | CC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)Cl | C16H13Cl2NO2
reactant | DL-amphetamine | 6.8 g | CC(CC1=CC=CC=C1)N | C9H13N
reactant | dioxan | 150 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 2-(5-phenyl-N-methyl-4-methyl-3-aza-pentanamido)-5-chlorobenzophenone hydrochloride | 58% | Cl.C1(=CC=CC=C1)CC(NCC(=O)N(C)C1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)C | InChI=1S/C25H25ClN2O2.ClH/c1-18(15-19-9-5-3-6-10-19)27-17-24(29)28(2)23-14-13-21(26)16-22(23)25(30)20-11-7-4-8-12-20;/h3-14,16,18,27H,15,17H2,1-2H3;1H
